US05736534
4-(2,3-Dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline
Utilizing a procedure analogous to that described in Example 2, this product was prepared in 94% yield from indoline (2 eq.) and 4-chloro-6,7-dimethoxyquinazoline (1.0 eq) in i-PrOH. (M.P. 162°-163° C.; LC-MS: 308 (MH+); anal. RP18-HPLC RT: 4.11 min.).

reactant | indoline | 2 eq. | N1CCC2=CC=CC=C12 | C8H9N
reactant | 4-chloro-6,7-dimethoxyquinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(2,3-Dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline | 94% yield | N1(CCC2=CC=CC=C12)C1=NC=NC2=CC(=C(C=C12)OC)OC | C18H17N3O2
